US04962115
A mixture of 18 parts of cis-1-(1H-benzimidazol-2-ylmethyl)-3-methoxy-N-(phenylmethyl)-4-piperidinamine and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 3 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (93:7 by volume), saturated with ammonia, as eluent. The pure fractions were collected and the eluent was evaporated. The residue solidified slowly and the solid product was suspended in 2,2'-oxybispropane. The product was filtered off and dried at the air, yielding 6 parts of cis-1-(1H-benzimidazol-2-ylmethyl)-3-methoxy-4-piperidinamine dihydrate;mp. 92.0° C. (intermediate 122).

reactant | cis-1-(1H-benzimidazol-2-ylmethyl)-3-methoxy-N-(phenylmethyl)-4-piperidinamine | N1C(=NC2=C1C=CC=C2)CN2C[C@H]([C@H](CC2)NCC2=CC=CC=C2)OC | C21H26N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | cis-1-(1H-benzimidazol-2-ylmethyl)-3-methoxy-4-piperidinamine dihydrate | O.O.N1C(=NC2=C1C=CC=C2)CN2C[C@H]([C@H](CC2)N)OC | InChI=1S/C14H20N4O.2H2O/c1-19-13-8-18(7-6-10(13)15)9-14-16-11-4-2-3-5-12(11)17-14;;/h2-5,10,13H,6-9,15H2,1H3,(H,16,17);2*1H2/t10-,13+;;/m0../s1
